US07435823B2
A solution of thionyl chloride (30 ml) and 3-nitro-5-(trifluoromethyl)benzoic acid (10 g) was heated to reflux for 2 h. The reaction mixture was concentrated under reduced pressure and treated with toluene (10 ml) which was then removed under reduced pressure to afford 3-nitro-5-(trifluoromethyl)benzoyl chloride.

reactant | 3-nitro-5-(trifluoromethyl)benzoic acid | 10 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4F3NO4
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-nitro-5-(trifluoromethyl)benzoyl chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F | C8H3ClF3NO3
